*
* Low-Pass Filter + Limiter
*

* forces current values to be saved
.options savecurrents

******************************************

.param pi = 3.14159265359
.param n = 22.9820

* input voltage source
vS 1 0 0 sin(0 'sqrt(2)*230/n' 50)

Dd1 2 1 Default
Dd2 1 3 Default
Dd3 2 0 Default
Dd4 0 3 Default
Ci 3 2 14u
Ra 2 3 14k


.model Default D
.op
.end

.control

******************************************
* analise no tempo
tran 5e-4 50e-3

*plot  v(1) v(2)
plot  v(1) v(3,2)
plot 'v('

******************************************
hardcopy vospice50.ps v(1)
* hardcopy vospice400.ps v(1) v(2)

*quit
.endc

.end